datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CC(=O)Nc1ccc2c(c1)cc1ccccc1[n:10]2.C[NH2+]CC(=O)NCCc1c[nH]c[n+:21]1[H:20]>>CC(=O)Nc1ccc2c(c1)cc1ccccc1[n+:10]2[H:20].C[NH2+]CC(=O)NCCc1c[nH]c[n:21]1 10=20;20,21=21",
"CC(OCC[N:10](C)C)(c1ccccc1)c1ccccc1.Nc1ccc(S(=O)(=O)[N:21](c2ncccc2O)[H:20])cc1>>CC(OCC[N+:10](C)(C)[H:20])(c1ccccc1)c1ccccc1.Nc1ccc(S(=O)(=O)[N-:21]c2ncccc2O)cc1 10=20;20,21=21",
"Cc1nn(-c2ccccc2)c([O-:10])c1-c1ccccc1.c1ccc2c[n+](CC[NH2+:21][H:20])ccc2c1>>Cc1nn(-c2ccccc2)c([O:10][H:20])c1-c1ccccc1.c1ccc2c[n+](CC[NH2:21])ccc2c1 10=20;20,21=21",
"C[NH2:10].O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>C[NH2+:10][H:20].O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"CC(C)CC(C(=O)[O-])[NH2+:21][H:20].CCCCSCC[N:10](CC)CC>>CC(C)CC(C(=O)[O-])[NH2:21].CCCCSCC[N+:10](CC)(CC)[H:20] 10=20;20,21=21",
"CN1c2ccc(OC(=O)[N:21](C)[H:20])cc2[C@@]2(C)CC[NH+](C)[C@@H]12.Oc1ccc(F)cc1C[N:10]1CCOCC1>>CN1c2ccc(OC(=O)[N-:21]C)cc2[C@@]2(C)CC[NH+](C)[C@@H]12.Oc1ccc(F)cc1C[N+:10]1([H:20])CCOCC1 10=20;20,21=21",
"CC(C)SCC[NH2:10].O=Cc1ccc2ccccc2[n+:21]1[H:20]>>CC(C)SCC[NH2+:10][H:20].O=Cc1ccc2ccccc2[n:21]1 10=20;20,21=21",
"CC1=CC([C:21](C)([N+](=O)[O-])[H:20])=CC=C1.C[NH+](c1ccccc1)C([O-])[O-:10]>>CC1=CC([C-:21](C)[N+](=O)[O-])=CC=C1.C[NH+](c1ccccc1)C([O-])[O:10][H:20] 10=20;20,21=21",
"Cc1ccc2c(c1O)-c1c-2ccc(C)c1[O-:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>Cc1ccc2c(c1O)-c1c-2ccc(C)c1[O:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC1NCCC[NH:10]1.[H][C:21](C(C)=O)(C(C)=O)[H:20]>>CC1NCCC[NH+:10]1[H:20].[H][C-:21](C(C)=O)C(C)=O 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].[NH3+][C@H]1CCCC[C@@H]1[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.[NH3+][C@H]1CCCC[C@@H]1[NH2+:10][H:20] 10=20;20,21=21",
"[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O.c1ccc(C[NH2:10])nc1>>[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O.c1ccc(C[NH2+:10][H:20])nc1 10=20;20,21=21",
"C[C@H]1[C@@H](O)CC[C@@H](CCCCCCCC(=O)[O-])[NH:10]1.O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>C[C@H]1[C@@H](O)CC[C@@H](CCCCCCCC(=O)[O-])[NH+:10]1[H:20].O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"CC(C)C1=CC=CC(=O)C([O-:10])=C1.[NH3+]CCCCc1ccc[n+:21]([H:20])c1>>CC(C)C1=CC=CC(=O)C([O:10][H:20])=C1.[NH3+]CCCCc1ccc[n:21]c1 10=20;20,21=21",
"Cc1ccc([O-:10])c(CO)c1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>Cc1ccc([O:10][H:20])c(CO)c1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O.c1ccc(CCC[NH2:10])nc1>>[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O.c1ccc(CCC[NH2+:10][H:20])nc1 10=20;20,21=21",
"CC(C[N+:21]1([H:20])CCCCC1)C(C#N)(c1ccccc1)c1ccccc1.CCCCNc1nc[n:10]c2c1cnn2C>>CC(C[N:21]1CCCCC1)C(C#N)(c1ccccc1)c1ccccc1.CCCCNc1nc[n+:10]([H:20])c2c1cnn2C 10=20;20,21=21",
"C(=N/c1ncc2nc[nH]c2n1)\c1ccc([O:21][H:20])cc1.O=C1n2nnnc2C=C[N-:10]1>>C(=N/c1ncc2nc[nH]c2n1)\c1ccc([O-:21])cc1.O=C1n2nnnc2C=C[N:10]1[H:20] 10=20;20,21=21",
"CN(C)C(=O)C[S:21][H:20].[NH3+]c1ccc(Cc2ccc([NH2:10])cc2)cc1>>CN(C)C(=O)C[S-:21].[NH3+]c1ccc(Cc2ccc([NH2+:10][H:20])cc2)cc1 10=20;20,21=21",
"Cc1cc2nnn([O:21][H:20])c2cc1Cl.[NH3+]C/C=C/C(=O)[O-:10]>>Cc1cc2nnn([O-:21])c2cc1Cl.[NH3+]C/C=C/C(=O)[O:10][H:20] 10=20;20,21=21",
"Cc1nnn(CC(=O)[O:21][H:20])n1.O=Cc1ncccc1[O-:10]>>Cc1nnn(CC(=O)[O-:21])n1.O=Cc1ncccc1[O:10][H:20] 10=20;20,21=21",
"Clc1ccc([NH2+:21][H:20])cc1.[O-]c1c(Cl)cc(Cl)c(Cl)c1C[N:10]1CCCCC1>>Clc1ccc([NH2:21])cc1.[O-]c1c(Cl)cc(Cl)c(Cl)c1C[N+:10]1([H:20])CCCCC1 10=20;20,21=21",
"O=Cc1ncccc1[O-:10].Oc1ccccc1C[N+:21]1([H:20])CCOCC1>>O=Cc1ncccc1[O:10][H:20].Oc1ccccc1C[N:21]1CCOCC1 10=20;20,21=21",
"CNC(=O)C=C(c1ccc2c(c1)n(C1CCCC1)c(N)[n+:21]2[H:20])c1ccccc1F.[NH3+]C(Cc1c[nH]c[n:10]1)C(=O)[O-]>>CNC(=O)C=C(c1ccc2c(c1)n(C1CCCC1)c(N)[n:21]2)c1ccccc1F.[NH3+]C(Cc1c[nH]c[n+:10]1[H:20])C(=O)[O-] 10=20;20,21=21",
"Clc1c[nH][n:10]c1.O=C(CC[N+:21]1([H:20])CCOCC1)C(c1ccccc1)c1ccccc1>>Clc1c[nH][n+:10]([H:20])c1.O=C(CC[N:21]1CCOCC1)C(c1ccccc1)c1ccccc1 10=20;20,21=21",
"C[Si](C)(C)OC1C[N+:21](Cc2ccc(Cl)cc2)([H:20])C1.Cc1ncsc1C(=O)[O-:10]>>C[Si](C)(C)OC1C[N:21](Cc2ccc(Cl)cc2)C1.Cc1ncsc1C(=O)[O:10][H:20] 10=20;20,21=21",
"COC(=O)[C@H](NC(=O)Cc1ccccc1)[C@@H]1SC(C)(C)[C@H]2C(=O)[N:21]([H:20])C(=S)N12.Cc1cc(O)c([NH2:10])cc1C>>COC(=O)[C@H](NC(=O)Cc1ccccc1)[C@@H]1SC(C)(C)[C@H]2C(=O)[N-:21]C(=S)N12.Cc1cc(O)c([NH2+:10][H:20])cc1C 10=20;20,21=21",
"CCC(C)(C)[N:10](C)C(C)(C)C.O[C@H]1CCCC[C@H]1[NH2+:21][H:20]>>CCC(C)(C)[N+:10](C)(C(C)(C)C)[H:20].O[C@H]1CCCC[C@H]1[NH2:21] 10=20;20,21=21",
"CCC[NH:10]Cc1ccccc1.C[N+]1=CC=C([CH:21](S(=O)(=O)C2=CC=CC=C2)[H:20])C=C1>>CCC[NH+:10](Cc1ccccc1)[H:20].C[N+]1=CC=C([CH-:21]S(=O)(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"Cc1ccc(CC[NH2:10])cc1.O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20]>>Cc1ccc(CC[NH2+:10][H:20])cc1.O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21",
"C[N:10](C)c1ccccc1.Cc1cccc(C(=O)[O-])[n+:21]1[H:20]>>C[N+:10](C)(c1ccccc1)[H:20].Cc1cccc(C(=O)[O-])[n:21]1 10=20;20,21=21",
